US07968570B2
4-Bromo-2,6-dimethyl-benzamide
4-Bromo-2-chloro-6-methyl-benzonitrile (1.65 g, 7.16 mmol) was dissolved in methanol (20 mL) and 6M NaOH (20 mL) was added. The mixture was heated to reflux for seventeen hours. After cooling, the reaction was partitioned between diethyl ether and water. The organic phase was washed with water and brine, dried over magnesium sulfate, filtered and concentrated. Trituration with 10% EtOAc/Hexanes provided the title compound as a brick coloured solid (1.35 g, 76%). 1H NMR CDCl3: δ 7.41 (s, 1H), 7.29 (s, 1H), 6.33 (br s, 1H), 5.90 (br s, 1H), 2.37 (s, 3H).

reactant | 4-Bromo-2-chloro-6-methyl-benzonitrile | 7.16 mmol, 1.65 g | BrC1=CC(=C(C#N)C(=C1)C)Cl | C8H5BrClN
reactant | NaOH | 6M, 20 mL | [OH-].[Na+]
reactant | methanol | 20 mL | CO | CH4O
product | 4-Bromo-2,6-dimethyl-benzamide | 1.35 g, 76% | BrC1=CC(=C(C(=O)N)C(=C1)C)C | C9H10BrNO
